US05582764
19.3 g (0.1 mol) of 1-bromo-3,4-difluorobenzene was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of tetrakis triphenylphosphine palladium and 43.8 g (0.1 mol) of 4-(trans-4-(2-(trans-4-(3-methoxypropyl)-4-silacyclohexyl)ethyl)cyclohexyl)phenyl bromide. After a conventional after treatment, purification was conducted by means of chromatography to obtain 28.9 g (yield 61.3%) of 4-(trans-4-(2-(trans-4-(3-methoxypropyl)-4-silacyclohexyl)ethyl)cyclohexyl)-3',4'-difluorobiphenyl was obtained.

reactant | 1-bromo-3,4-difluorobenzene | 0.1 mol, 19.3 g | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | 4-(trans-4-(2-(trans-4-(3-methoxypropyl)-4-silacyclohexyl)ethyl)cyclohexyl)phenyl bromide | 0.1 mol, 43.8 g | COCCC[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)Br | C23H37BrOSi
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-(3-methoxypropyl)-4-silacyclohexyl)ethyl)cyclohexyl)-3',4'-difluorobiphenyl | 28.9 g, yield 61.3% | COCCC[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C29H40F2OSi
